US08791132B2
1-(2-Methoxy-pyridin-4-yl)-2-(9-methyl-1,2,3,4,5,10c-hexahydro-3a,6-diaza-cyclopenta[c]fluoren-6-yl)-ethanol (45 mg, 0.119 mmol) and 47% aqueous HBr (4 mL) and heated at 100° C. for 45 min. The reaction was monitored by TLC and LCMS. After consumption of starting material, the reaction mixture was cooled to RT and basified with ammonia and extracted with EtOAc (2×25 mL). The organic layer was dried over anhydrous sodium sulfate and concentrated and the crude product was purified by reverse phase chromatography to obtain 20 mg of 4-(2-(2,3,5,6-tetrahydro-10-methyl-1H-indolizino[7,8-b]indol-7(11cH)-yl)-1-hydroxyethyl)pyridin-2(1H)-one. 1H NMR (CD3OD, TFA salt) δ (ppm): 7.43 (d, 1H), 7.23 (m, 2H), 7.05 (t, 1H), 6.7 (m, 1H), 6.5 (d, 1H),4.79 (m, 1H), 4.3 (m, 2H), 3.9 (m, 2H), 3.8 (m, 1H), 3.6 (m, 1H), 3.4 (m, 2H), 3.1 (m, 1H), 2.6 (m, 1H), 2.4 (s, 3H), 2.3 (m, 2H), 1.9 (m, 1H). Separation by chiral HPLC provided enantiomers II-132a-b.

reactant | 1-(2-Methoxy-pyridin-4-yl)-2-(9-methyl-1,2,3,4,5,10c-hexahydro-3a,6-diaza-cyclopenta[c]fluoren-6-yl)-ethanol | 0.119 mmol, 45 mg | COC1=NC=CC(=C1)C(CN1C=2C=CC(=CC2C=2C3N(CCC12)CCC3)C)O | C23H27N3O2
reactant | HBr | 4 mL | Br | BrH
product | 4-(2-(2,3,5,6-tetrahydro-10-methyl-1H-indolizino[7,8-b]indol-7(11cH)-yl)-1-hydroxyethyl)pyridin-2(1H)-one | 20 mg | CC1=CC=2C3=C(N(C2C=C1)CC(O)C1=CC(NC=C1)=O)CCN1CCCC13 | C22H25N3O2
